US06262046B1
1-Diphenylmethyl-3-(4-tert-butoxycarbonylhomopiperazin-1-yl)azetidine
To a solution of 1-diphenylmethyl-3-methanesulphonyloxyazetidine (WO 96/05193) (25 g) in acetonitrile (800 mL) were added the compound of PREPARATION 24 (19 g) and potassium carbonate (33 g). The reaction mixture was heated to reflux for 12 h, then cooled to room temperature. Water was added to the resulting slurry, and the mixture extracted three times with ethyl acetate. The combined organics were washed with brine, dried over magnesium sulphate, filtered and dried in vacuo to yield crude product. Chromatography on silica gel eluting with dichloromethane:methanol (95:5) yielded the title compound (24.7 g).

reactant | 1-diphenylmethyl-3-methanesulphonyloxyazetidine | 25 g | C1(=CC=CC=C1)C(N1CC(C1)OS(=O)(=O)C)C1=CC=CC=C1 | C17H19NO3S
reactant | potassium carbonate | 33 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
reactant | dichloromethane methanol | ClCCl.CO
reactant | acetonitrile | 800 mL | C(C)#N | C2H3N
product | 1-Diphenylmethyl-3-(4-tert-butoxycarbonylhomopiperazin-1-yl)azetidine | 24.7 g | C1(=CC=CC=C1)C(N1CC(C1)N1CCN(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C26H35N3O2
